US04260755
6-Phenyl-3-(trifluoromethyl)-1,2,4-triazolo[4,3-b]pyridazine
To a mixture of 3.5 g. of 3-hydrazino-6-phenylpyridazine in 35 ml. of pyridine is added dropwise 6.3 g. of trifluoroacetic anhydride. The mixture is refluxed for 6 hours, cooled and the solvent removed under reduced pressure. The residue is dissolved in ethyl acetate and passed through a pad of hydrous magnesium silicate. The eluent is concentrated to a dark solid which is recrystallized twice from ethanol to give 2.0 g. of the product of the Example as crystals, m.p. 183°-184° C.

reactant | 3-hydrazino-6-phenylpyridazine | N(N)C=1N=NC(=CC1)C1=CC=CC=C1 | C10H10N4
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-Phenyl-3-(trifluoromethyl)-1,2,4-triazolo[4,3-b]pyridazine | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C12H7F3N4
